US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-isopropyl-1-(3-isopropyl-1H-pyrazole-5-carbonyl)-1H-pyrazole-5-carboxamide was prepared using the method of Example 34(d) starting from 3-isopropyl-1H-pyrazole-5-carboxylic acid (0.284 g, 1.841 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.4 g, 1.534 mmol). Yield 1.883%. 1H-NMR (400 MHz; CDCl3): δ 1.23 (dd, 6H), 1.27 (d, 3H), 1.32 (dd, 6H), 2.94 (m, 1H), 3.81 (m, 1H), 4.32 (dd, 1H), 4.47 (dd, 1H), 4.63 (m, 1H), 6.63 (d, 1H), 6.81 (s, 1H), 7.08 (s, 1H), 7.44 (d, 1H), 7.51 (d, 1H), 7.64 (dd, 1H), 7.78 (d, 1H), 7.80 (d, 1H).

reactant | 3-isopropyl-1H-pyrazole-5-carboxylic acid | 1.841 mmol, 0.284 g | C(C)(C)C1=NNC(=C1)C(=O)O | C7H10N2O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.534 mmol, 0.4 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-isopropyl-1-(3-isopropyl-1H-pyrazole-5-carbonyl)-1H-pyrazole-5-carboxamide | Yield 1.883% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1C(=O)C1=CC(=NN1)C(C)C)C(C)C | C27H29ClN8O2
